US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-N′-(2,6-DIFLUOROPHENYL)UREA
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 2,6-difluorophenyl isocyanate according to the procedure of Example 65. HRMS: calcd for C30H18F5N3O2, 547.1319; found (ESI, [M+H]+), 548.1425.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 2,6-difluorophenyl isocyanate | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-N′-(2,6-DIFLUOROPHENYL)UREA | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC1=C(C=CC=C1F)F)C(F)(F)F | C30H18F5N3O2
